US06822100B2
Phosphorous oxychloride (0.08 mL, 0.85 mmol, 0.91 equiv.) and dimethyl formamide (0.32 mL, 4.09 mmol, 4.4 equiv.) were combined at room temperature with stirring. After 15 min, N,N-dimethyl-2-(indol-5-yl)cycloprop-1-yl-methylamine was added dropwise in DMF (5 mL). After 2 hs of stirring at room temperature, ice and 1 N NaOH were added, then the mixture was diluted further with water and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give N,N-dimethyl-2-(3-formyl-indol-5-yl)cycloprop-1-yl-methylamine (120 mg) as an oil. 1H NMR (MeOH-d4): δ 9.84 (s, 1H), 8.04 (s, 1H), 7.97 (s, 1H), 7.36 (d, J=8.4 Hz, 1H), 7.05 (dd, J=15.5, 1.7 Hz, 1H), 2.59 (dd, J=12.7, 6.7, 1H), 2.35 (s, 6H), 2.30 (m, 1H), 1.80 (m, 1H), 1.20 (m, 1H), 1.05 (m, 1H), and 0.88 (m, 1H).

reactant | Phosphorous oxychloride | 0.85 mmol, 0.08 mL, 0.91 equiv. | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethyl-2-(indol-5-yl)cycloprop-1-yl-methylamine | CN(C)CC1C(C1)C=1C=C2C=CNC2=CC1 | C14H18N2
reactant | NaOH | 1 N | [OH-].[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | dimethyl formamide | 4.09 mmol, 0.32 mL, 4.4 equiv. | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N,N-dimethyl-2-(3-formyl-indol-5-yl)cycloprop-1-yl-methylamine | 120 mg | CN(C)CC1C(C1)C=1C=C2C(=CNC2=CC1)C=O | C15H18N2O
